US05763599
Phosgene was introduced in a solution of 2-(4-chloro-2-nitrophenyl)ethanol (6.8 g, 34 mmol) in THF (50 ml, dist. over CaH2) at room temperature. After 2.5 h, the excess phosgene and the solvent were removed by distillation in a high vacuum. 2-(4-chloro-2-nitrophenyl)ethoxycarbonyl chloride (8.53 g, 95%) was obtained as a yellow oil.

reactant | Phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 2-(4-chloro-2-nitrophenyl)ethanol | 34 mmol, 6.8 g | ClC1=CC(=C(C=C1)CCO)[N+](=O)[O-] | C8H8ClNO3
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-(4-chloro-2-nitrophenyl)ethoxycarbonyl chloride | 8.53 g, 95% | ClC1=CC(=C(C=C1)CCOC(=O)Cl)[N+](=O)[O-] | C9H7Cl2NO4
